US06586630B1
(4) Synthesis of 5-tert-Butyl-4-methoxymethoxymethylfuran-2-carboaldehyde
Under cooling with ice, a solution of methyl ester of 5-tert-butyl-4-methoxymethoxymethylfuran-2-carboxylic acid (490 mg, 1.91 mmol) in THF (10 ml) was added to a suspension of lithium aluminum hydride (145 mg, 3.82 mmol) in THF (10 ml), followed by stirring for 1 hour. Under cooling with ice, the mixture was mixed with ethyl acetate and saturated aqueous NH4Cl, filtered and the filtrate was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over magnesium sulfate and evaporated to remove the solvent. The thus obtained residue was dissolved in methylene chloride (20 ml) and mixed with manganese dioxide (2.49 g, 28.7 mmol), followed by stirring for 1 day. The reaction mixture was filtered and the filtrate was evaporated to remove the solvent; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:4) to give the titled compound (379 mg, 88%).

reactant | 5-tert-butyl-4-methoxymethoxymethylfuran-2-carboxylic acid | 1.91 mmol, 490 mg | C(C)(C)(C)C1=C(C=C(O1)C(=O)O)COCOC | C12H18O5
reactant | lithium aluminum hydride | 3.82 mmol, 145 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | manganese dioxide | 28.7 mmol, 2.49 g | [O-2].[O-2].[Mn+4]
product | 5-tert-Butyl-4-methoxymethoxymethylfuran-2-carboaldehyde | 379 mg, 88% | C(C)(C)(C)C1=C(C=C(O1)C=O)COCOC | C12H18O4
